US07932277B2
(2S,4R)-1-(tert-butoxycarbonyl)-4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-2-carboxylic acid (0.93 g, 2.26 mmol), (1R,2R)-1-amino-N-(cyclopropylsulfonyl)-2-ethylcyclopropanecarboxamide dihydrochloride (0.64 g, 2.38 mmol) and HATU (0.79 g, 2.078 mmol) in DCM (20 mL) was added DIEA (1.18 ml, 6.79 mmol) and the reaction was stirred at rt for 18 hours. H2O (10 mL) was added and acidified with saturated KHSO4 until PH=3˜4. The mixture was extracted with ether (30 mL), washed with brine and dried over sodium sulfate. After removal of solvent, it gave (3R,5S)-1-(tert-butoxycarbonyl)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate (1.36 g, 96%) as a white solid, which was used directly for the next step without purification. LCMS (APCI+): 525.1 (MH+−Boc).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-2-carboxylic acid | 2.26 mmol, 0.93 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC(=O)N1CC2=CC=CC(=C2C1)Cl)C(=O)O | C19H23ClN2O6
reactant | (1R,2R)-1-amino-N-(cyclopropylsulfonyl)-2-ethylcyclopropanecarboxamide dihydrochloride | 2.38 mmol, 0.64 g | Cl.Cl.N[C@]1([C@@H](C1)CC)C(=O)NS(=O)(=O)C1CC1
reactant | HATU | 2.078 mmol, 0.79 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 6.79 mmol, 1.18 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate | 1.36 g, 96% | ClC1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN([C@@H](C1)C(N[C@]1([C@@H](C1)CC)C(NS(=O)(=O)C1CC1)=O)=O)C(=O)OC(C)(C)C | C28H37ClN4O8S
